US07855290B2
Methyl 1-tert-butoxycarbonylazetidine-3-carboxylate
A crude product of methyl azetidine-3-carboxylate hydrochloride (assessed as 1.93 g of a pure product) was dissolved in water (26 ml), and sodium hydrogencarbonate (3.2 g) and a solution of di-t-butyl dicarbonate (2.91 g) in tetrahydrofuran (13 ml) were added while stirring and cooling in an ice bath, followed by stirring at the same temperature for 0.5 hr. The reaction mixture was stirred at room temperature for 19.5 hr. Tetrahydrofuran in the reaction mixture was removed, and extracted with ethyl acetate. The organic layer was washed with brine (70 ml), and dried over anhydrous sodium sulfate. The concentrated organic layer and the aqueous layer were combined, and tetrahydrofuran (50 ml) was added. This was stirred while cooling in an ice bath, and sodium hydrogencarbonate (3.2 g), and di-t-butyl dicarbonate (2.91 g) were again added thereto. After stirring at the same temperature for 0.5 hr, stirring was carried out at room temperature for 2.5 days. The reaction mixture was partitioned, and the aqueous layer was extracted with ethyl acetate. The organic layer was combined and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=2:1, 1:1, ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing the target compound were concentrated to provide the titled compound as a colorless oil (370 mg, 13.5%).

reactant | methyl azetidine-3-carboxylate hydrochloride | Cl.N1CC(C1)C(=O)OC
reactant | sodium hydrogencarbonate | 3.2 g | C(O)([O-])=O.[Na+]
reactant | di-t-butyl dicarbonate | 2.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 26 ml | O | H2O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | Methyl 1-tert-butoxycarbonylazetidine-3-carboxylate | 370 mg, 13.5% | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)OC | C10H17NO4
